US04481142
9-Chloro-7-(2-chlorophenyl)-6,7-dihydro-6-[(4-methylphenyl)sulfonyl]-5H-pyrimido[5,4-d][2]benzazepine
A solution of 14.5 g (42 mmole) of 9-chloro-7-(2-chlorophenyl)-6,7-dihydro-5H-pyrmido[5,4-d][2]benzazepine, 14.5 g (76 mmols) of p-toluene-sulfonyl chloride, 30 ml of pyridine and 0.3 g of 4-dimethylaminopyridine in 300 ml of methylene chloride was stirred at room temperature for 24 hr. The mixture was washed with an excess of dilute ice cold hydrochloric acid and dilute aqueous sodium hydroxide. The methylene chloride solution was dried over anhyrous sodium sulfate and concentrated at reduced pressure to dryness. The residue crystallized from a mixture of methylene chloride and ether to give the product as a white solid, mp 200°-201° C. Recrystallization from a mixture of ether and methylene chloride gave the pure product as colorless prisms, mp 200°-201° C.

reactant | 9-chloro-7-(2-chlorophenyl)-6,7-dihydro-5H-pyrmido[5,4-d][2]benzazepine | 42 mmole, 14.5 g | ClC1=CC2=C(C3=C(CNC2C2=C(C=CC=C2)Cl)C=NC=N3)C=C1 | C18H13Cl2N3
reactant | p-toluene-sulfonyl chloride | 76 mmols, 14.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 0.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 9-Chloro-7-(2-chlorophenyl)-6,7-dihydro-6-[(4-methylphenyl)sulfonyl]-5H-pyrimido[5,4-d][2]benzazepine | ClC1=CC2=C(C3=C(CN(C2C2=C(C=CC=C2)Cl)S(=O)(=O)C2=CC=C(C=C2)C)C=NC=N3)C=C1 | C25H19Cl2N3O2S
